US08629147B2
2-[2-Hydroxy-5-(6-methoxy-pyridin-2-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide
To a suspension of silica gel (0.8 g) in dichloromethane (5 mL) was added SOCl2 (0.6 mL) and the mixture was stirred at the room temperature for 1 h (gas was released from the reaction mixture). 3,4-Diamino-N-{4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-benzamide (178.2 mg, 0.5 mmol), 2-hydroxy-5-(6-methoxy-pyridin-2-yl)-benzaldehyde (114.6 mg, 0.5 mmol) and 2 mL dichloromethane were added, and the resulting reaction mixture was stirred at the room temperature for 4 h. After methanol (5 mL) was added, the reaction mixture was stirred at room temperature for another 1 h and was evaporated under reduced pressure. The residue on silica gel was purified by chromatography (250:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (190 mg, 68%). 1H NMR (MeOH-d4) δ 2.26 (s, 3H), 2.37-2.72 (12H), 4.01 (s, 3H), 6.62 (d, J=9 Hz, 1H), 7.04 (d, J=9 Hz, 1H), 7.12 (d, J=9 Hz, 2H), 7.37 (d, J=6 Hz, 1H), 7.55 (d, J=9 Hz, 1H), 7.54-7.63 (2H), 7.76 (d, J=6 Hz, 1H), 8.04 (d, J=6 Hz, 1H), 8.13 (s, 1H), 8.53 (s, 1H). ESI-MS m/z 563 (MH+).

reactant | SOCl2 | 0.6 mL | O=S(Cl)Cl | Cl2OS
reactant | 3,4-Diamino-N-{4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-benzamide | 0.5 mmol, 178.2 mg | NC=1C=C(C(=O)NC2=CC=C(C=C2)CCN2CCN(CC2)C)C=CC1N | C20H27N5O
reactant | 2-hydroxy-5-(6-methoxy-pyridin-2-yl)-benzaldehyde | 0.5 mmol, 114.6 mg | OC1=C(C=O)C=C(C=C1)C1=NC(=CC=C1)OC | C13H11NO3
reactant | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-[2-Hydroxy-5-(6-methoxy-pyridin-2-yl)-phenyl]-1H-benzoimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide | 190 mg, 68% | CN1CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C1=CC2=C(NC(=N2)C2=C(C=CC(=C2)C2=NC(=CC=C2)OC)O)C=C1 | C33H34N6O3
